2148-11-12 07:06:00 Physician Resident Progress Note
Chief Complaint: variceal bleeding
   24 Hour Events:
 INVASIVE VENTILATION - START [**2148-11-11**] 03:21 PM
 MULTI LUMEN - START [**2148-11-11**] 06:35 PM
   PS trial this AM
   Underwent emergent TIPS, paracentesis with 2 L ascitic drainage,
   placement of A line at IR
   No R IJ/cordis placed at IR, kept femoral line in overnight
   Hct stable at 32 tonight
   Gave 1 U FFP overnight (low plts to 45, low fibrinogen, ?mild DIC from
   liver failure)
   History obtained from Family / Friend
   Allergies:
   [**Name2 (NI) **] Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2148-11-12**] 01:27 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Pantoprazole (Protonix) - 8 mg/hour
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-11-12**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.1
C (98.8
   HR: 87 (75 - 95) bpm
   BP: 123/54(80) {107/50(71) - 145/65(94)} mmHg
   RR: 14 (13 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
           Total In:
                                                                    254 mL
                                                                    506 mL
   PO:
           TF:
   IVF:
                                                                    254 mL
                                                                    231 mL
   Blood products:
   275 mL
   Total out:
                                                                    525 mL
                                                                    845 mL
   Urine:
                                                                    525 mL
                                                                    845 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -271 mL
                                                                   -339 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 450) mL
   Vt (Spontaneous): 505 (400 - 505) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 35
   PIP: 15 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.39/42/121/25/0
   Ve: 6.3 L/min
   PaO2 / FiO2: 242
   Physical Examination
   GENERAL:  intubated, sedated
   HEENT:  PERRLA. MMM.
   CARDIAC:   RRR S1/S2 present no m/g/r
   LUNG: ventilated breath sounds
   ABDOMEN:  soft, NT +BS
   EXT: wwp no edema
   NEURO: sedated
   LINES: gross blood noted from rectal flexiseal
   Labs / Radiology
   51 K/uL
   10.9 g/dL
   118 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.7 mEq/L
   13 mg/dL
   113 mEq/L
   144 mEq/L
   31.9 %
   6.2 K/uL
        [image002.jpg]
                            [**2148-11-11**]  03:19 PM
                            [**2148-11-11**]  07:00 PM
                            [**2148-11-11**]  07:03 PM
                            [**2148-11-11**]  09:34 PM
                            [**2148-11-12**]  12:13 AM
                            [**2148-11-12**]  04:35 AM
   WBC
   5.9
   6.4
   6.7
   6.2
   Hct
   38.9
   31.6
   35
   33
   31.9
   31.9
   Plt
   51
   64
   45
   51
   Cr
   0.7
   0.7
   TropT
   <0.01
   TCO2
   26
   26
   Glucose
   124
   111
   96
   118
   Other labs: PT / PTT / INR:18.7/40.2/1.7, CK / CKMB /
   Troponin-T:76//<0.01, ALT / AST:17/27, Alk Phos / T Bili:70/5.6,
   Differential-Neuts:85.8 %, Lymph:7.4 %, Mono:4.3 %, Eos:2.3 %,
   Fibrinogen:129 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.6 g/dL,
   Ca++:8.1 mg/dL, Mg++:1.5 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 GASTRIC VARICES / PORTAL HYPERTENSIVE GASTROPATHY
   # Esophageal varices: Acutely bleeding due to gastric varix noted on
   OSH EGD requiring urgent TIPS procedures today by IR. Noted to have
   nadir of Hct to 24 at OSH. Has received at least 3 [**Location 392**] at OSH.
   Hct has been stable overnight
   - IV PPI and octreotide
   - hct check q6H, tx for Hct < 30
   - femoral cortis placed for temporary access, consider change to R
   IJ/cordis if needs other access
   - low threshold to consult surgery/IR for embolization if Hct dropping
   or unable to keep up with transfusion requirements
   - hold spiranolactone for now.
   - no anticoagulation
   - liver following, appreciate recs
   - IV ceftriaxone for SBP prophylaxis
   # Thrombocytopenia: Likely due to liver disease (can have mixed
   coagulopathy). Also c/f DIC due to liver disease given elevated
   PT/PTT/INR, low plts, and low fibrinogen (which may also be product of
   liver disease).
   -          FFP, cryoprecipitate fibrinogen goal > 150, INR > 1.9
   -          Trend plt count
   # Cirrhosis: s/p therapeutic paracentesis with 2 L of fluid removal.
   [**Month (only) 8**] be at risk for encephalopathy s/p TIPS procedure.
   - restart lactulose (can give PR)
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2148-11-11**] 03:26 PM
   22 Gauge - [**2148-11-11**] 03:27 PM
   Multi Lumen - [**2148-11-11**] 06:35 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: in ICU

2148-11-12 10:05:00 Physician Attending Progress Note
Chief Complaint: GIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   62F with cirrhosis; transferred for TIPS in setting of variceal bleed.
   24 Hour Events:
   Admitted overnight and went immediately for TIPS.
   Also had paracentesis x 2L.
   Transfused 1unit FFP overnight; did not require PRBC transfusion.  HCT
   stable at 32 post-procedure.
   She remained hemodynamically stable.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2148-11-12**] 01:27 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Pantoprazole (Protonix) - 8 mg/hour
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-11-12**] 09:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.6
C (97.8
   HR: 87 (75 - 95) bpm
   BP: 122/55(80) {107/50(71) - 145/65(94)} mmHg
   RR: 14 (13 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
           Total In:
                                                                    254 mL
                                                                    687 mL
   PO:
           TF:
   IVF:
                                                                    254 mL
                                                                    412 mL
   Blood products:
   275 mL
   Total out:
                                                                    525 mL
                                                                  1,075 mL
   Urine:
                                                                    525 mL
                                                                  1,075 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -271 mL
                                                                   -388 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 0 (0 - 450) mL
   Vt (Spontaneous): 401 (400 - 505) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 15
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 35
   PIP: 6 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.39/42/121/25/0
   Ve: 6 L/min
   PaO2 / FiO2: 242
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.9 g/dL
   51 K/uL
   118 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.7 mEq/L
   13 mg/dL
   113 mEq/L
   144 mEq/L
   32.5 %
   6.2 K/uL
        [image002.jpg]
                            [**2148-11-11**]  03:19 PM
                            [**2148-11-11**]  07:00 PM
                            [**2148-11-11**]  07:03 PM
                            [**2148-11-11**]  09:34 PM
                            [**2148-11-12**]  12:13 AM
                            [**2148-11-12**]  04:35 AM
                            [**2148-11-12**]  09:24 AM
   WBC
   5.9
   6.4
   6.7
   6.2
   Hct
   38.9
   31.6
   35
   33
   31.9
   31.9
   32.5
   Plt
   51
   64
   45
   51
   Cr
   0.7
   0.7
   TropT
   <0.01
   TCO2
   26
   26
   Glucose
   124
   111
   96
   118
   Other labs: PT / PTT / INR:18.7/40.2/1.7, CK / CKMB /
   Troponin-T:76//<0.01, ALT / AST:17/27, Alk Phos / T Bili:70/5.6,
   Differential-Neuts:85.8 %, Lymph:7.4 %, Mono:4.3 %, Eos:2.3 %,
   Fibrinogen:129 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.6 g/dL,
   Ca++:8.1 mg/dL, Mg++:1.5 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   62F with cirrhosis; here with variceal bleed s/p TIPS.
   1.  Variceal Bleed:  s/p TIPS.  HCT stable overnight.  Continued
   hematochezia, suspect old bleeding.  Hemodynamically stable.
   - Ceftriaxone for SBP prophylaxis
   - Abd ultrasound in 1 week to assure TIPS patency
   - discuss with GI re: discontinuation of octreotide
   - Continue to follow HCT; transfuse PRBC and products as needed.
   - Platelets > 50k, INR < 1.8 or bleeding; cryo as needed.
   2.  Respiratory Failure:  Intubated for airway protection in setting of
   upper GI bleed.  Bleed is stable.
   - Passed SBT today, will extubate shortly.
   3.  Cirrhosis: s/p paracentesis x 2L
   - Holding lactulose, but will need to restart once awake to prevent
   encephalopathy.
   - Ceftriaxone for SBP prophylaxis.
   ICU Care
   Nutrition:  Holding tube feeds given GIB, recent procedure
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2148-11-11**] 03:26 PM
   22 Gauge - [**2148-11-11**] 03:27 PM
   Multi Lumen - [**2148-11-11**] 06:35 PM
   Arterial Line - [**2148-11-11**] 11:30 PM
   Prophylaxis:
   DVT: Boots(Active bleeding, contraindicated)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments: Family updated during
   rounds
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree with the
   assessment and plan as above with the following emphasis/modifications:
   62 year old female with alcoholic cirrhosis who had gastric variceal
   bleed.  Sent from OSH for plan of TIPS.  TIPS performed and overnight
   hematocrit remains stable without additional transfusion and bleeding
   seems to have subsided.
   T 37.9   P 87  BP 122/50   RR 14   Sat: 100%
   Awake, confused
   Chest: CTA
   Abd: soft NT ND
   Ext: warm
   HCT: 32%
   Assessment:
   1) GI bleed (gastric variceal)
   2) Cirrhosis
   3) Respiratory Failure
   Plan:
   1)       Extubate
 done and maintaining airway
   2)       Follow serial hcts
   Time Spent: 35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2148-11-12**] 03:21 PM ------

2148-11-13 07:27:00 Physician Resident Progress Note
Chief Complaint: Upper GI bleed
   24 Hour Events:
   Hct stable
   Started lactulose
   Extubated did well
   Platelets stayed stable
   Stopped octreotide drip per hepatology
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2148-11-12**] 01:27 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-11-13**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98
   HR: 82 (80 - 95) bpm
   BP: 120/52(77) {108/42(67) - 158/68(99)} mmHg
   RR: 11 (6 - 19) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                    915 mL
                                                                    104 mL
   PO:
             TF:
   IVF:
                                                                    610 mL
                                                                     74 mL
   Blood products:
                                                                    275 mL
   Total out:
                                                                  2,580 mL
                                                                    210 mL
   Urine:
                                                                  2,280 mL
                                                                    210 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                 -1,665 mL
                                                                   -106 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 401 (401 - 495) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 0 cmH2O
   FiO2: 35%
   PIP: 6 cmH2O
   SpO2: 97%
   ABG: ///24/
   Ve: 6 L/min
   Physical Examination
   GENERAL:  Easily arousable, alert and oriented x3
   HEENT:  PERRLA. MMM.
   CARDIAC:   RRR S1/S2 present no m/g/r
   LUNG: CTA bilaterally
   ABDOMEN:  soft, NT mildy distended +BS
   EXT: wwp no edema
   Labs / Radiology
   59 K/uL
   11.1 g/dL
   116 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.6 mEq/L
   14 mg/dL
   111 mEq/L
   142 mEq/L
   32.1 %
   8.7 K/uL
        [image002.jpg]
                            [**2148-11-11**]  03:19 PM
                            [**2148-11-11**]  07:00 PM
                            [**2148-11-11**]  07:03 PM
                            [**2148-11-11**]  09:34 PM
                            [**2148-11-12**]  12:13 AM
                            [**2148-11-12**]  04:35 AM
                            [**2148-11-12**]  09:24 AM
                            [**2148-11-12**]  03:53 PM
                            [**2148-11-12**]  10:30 PM
                            [**2148-11-13**]  03:34 AM
   WBC
   5.9
   6.4
   6.7
   6.2
   9.4
   8.7
   Hct
   38.9
   31.6
   35
   33
   31.9
   31.9
   32.5
   33.3
   33.4
   32.1
   Plt
   51
   64
   45
   51
   57
   59
   Cr
   0.7
   0.7
   0.6
   TropT
   <0.01
   TCO2
   26
   26
   Glucose
   124
   111
   96
   118
   116
   Other labs: PT / PTT / INR:18.9/36.6/1.7, CK / CKMB /
   Troponin-T:76//<0.01, ALT / AST:27/46, Alk Phos / T Bili:63/4.9,
   Differential-Neuts:85.8 %, Lymph:7.4 %, Mono:4.3 %, Eos:2.3 %,
   Fibrinogen:149 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.7 g/dL,
   Ca++:7.6 mg/dL, Mg++:1.6 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   62yo female with ETOH cirrhosis and hx of UGI bleeding [**12-25**] esophageal
   varices who was  transferred to [**Hospital1 5**] for management of UGI bleed [**12-25**]
   gastric varices and is now s/p TIPs
   # Esophageal varices: Acutely bleeding due to gastric varix noted on
   OSH EGD requiring urgent TIPS procedures by IR. Noted to have nadir of
   Hct to 24 at OSH. Has received at least 3 [**Location 392**] at OSH, and no
   transfusions here. Hct has been stable overnight
   - IV PPI
   - Stopped octreotide per Hepatology
   - hct check q6H, tx for Hct < 30
   - femoral cortis placed for temporary access, consider change to R
   IJ/cordis if needs other access
   - low threshold to consult surgery/IR for embolization if Hct dropping
   or unable to keep up with transfusion requirements
   - hold spiranolactone for now.
   - no anticoagulation
   - liver following, appreciate recs
   - IV ceftriaxone for SBP prophylaxis
   # Thrombocytopenia: Likely due to liver disease (can have mixed
   coagulopathy). Also c/f DIC due to liver disease given elevated
   PT/PTT/INR, low plts, and low fibrinogen (which may also be product of
   liver disease).
   - FFP, cryoprecipitate fibrinogen goal > 150, INR > 1.9
   - Trend plt count
   # Cirrhosis: s/p therapeutic paracentesis with 2 L of fluid removal.
   [**Month (only) 8**] be at risk for encephalopathy s/p TIPS procedure.
   - continue lactulose titrated to bowel movements
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2148-11-11**] 03:26 PM
   22 Gauge - [**2148-11-11**] 03:27 PM
   Multi Lumen - [**2148-11-11**] 06:35 PM
   Arterial Line - [**2148-11-11**] 11:30 PM
   Prophylaxis:
   DVT: No anticoagulation given low platelets
   Stress ulcer: PPI
   VAP:  Extubated
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: Likely call out to floor today if stable

2148-11-13 10:53:00 Physician Attending Progress Note
Chief Complaint: GIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   62F with cirrhosis, admitted with variceal bleed now s/p TIPS.
   24 Hour Events:
   Extubated yesterday and stable overnight.
   HCT stable, no transfusions.
   BP/HR stable.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2148-11-12**] 01:27 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Protonix infusion
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-11-13**] 10:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.5
   HR: 80 (80 - 95) bpm
   BP: 135/55(84) {108/42(67) - 158/68(99)} mmHg
   RR: 11 (6 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60.6 kg (admission): 60.3 kg
   Height: 61 Inch
             Total In:
                                                                    915 mL
                                                                    110 mL
   PO:
             TF:
   IVF:
                                                                    610 mL
                                                                     80 mL
   Blood products:
                                                                    275 mL
   Total out:
                                                                  2,580 mL
                                                                    335 mL
   Urine:
                                                                  2,280 mL
                                                                    335 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                 -1,665 mL
                                                                   -225 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands
   Labs / Radiology
   11.1 g/dL
   59 K/uL
   116 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.6 mEq/L
   14 mg/dL
   111 mEq/L
   142 mEq/L
   32.1 %
   8.7 K/uL
        [image002.jpg]
                            [**2148-11-11**]  03:19 PM
                            [**2148-11-11**]  07:00 PM
                            [**2148-11-11**]  07:03 PM
                            [**2148-11-11**]  09:34 PM
                            [**2148-11-12**]  12:13 AM
                            [**2148-11-12**]  04:35 AM
                            [**2148-11-12**]  09:24 AM
                            [**2148-11-12**]  03:53 PM
                            [**2148-11-12**]  10:30 PM
                            [**2148-11-13**]  03:34 AM
   WBC
   5.9
   6.4
   6.7
   6.2
   9.4
   8.7
   Hct
   38.9
   31.6
   35
   33
   31.9
   31.9
   32.5
   33.3
   33.4
   32.1
   Plt
   51
   64
   45
   51
   57
   59
   Cr
   0.7
   0.7
   0.6
   TropT
   <0.01
   TCO2
   26
   26
   Glucose
   124
   111
   96
   118
   116
   Other labs: PT / PTT / INR:18.9/36.6/1.7, CK / CKMB /
   Troponin-T:76//<0.01, ALT / AST:27/46, Alk Phos / T Bili:63/4.9,
   Differential-Neuts:85.8 %, Lymph:7.4 %, Mono:4.3 %, Eos:2.3 %,
   Fibrinogen:149 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.7 g/dL,
   Ca++:7.6 mg/dL, Mg++:1.6 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   62F with cirrhosis here with variceal bleed now s/p TIPS.
   1.  GIB: s/p TIPS, HCT stable; off octreotide
   - repeat HCT this afternoon; then space to daily
   - change protonix to IV bid
   - Ceftriaxone x 1 week
   2.       Cirrhosis:
   - lactulose
   - Will need RUQ ultrasound post-TIPS at 5-7 days
   3.       Respiratory failure: resolved, now on nasal cannula
   ICU Care
   Nutrition: Advance as tolerated
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2148-11-11**] 03:26 PM
   22 Gauge - [**2148-11-11**] 03:27 PM
   Multi Lumen - [**2148-11-11**] 06:35 PM
 discontinue femoral line
   Arterial Line - [**2148-11-11**] 11:30 PM
 discontinue arterial line
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:  Not intubated
   Communication:  Comments: Patient and family updated
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree with the
   assessment and plan as described above with the following
   modifications/emphasis:
   Overnight, no evidence of any rebleeding and remains extubated and with
   stable vital signs.
   T 37.3  P 80  BP 135/55   RR 11   Sat: 98%
   Awake, alert NAD
   Chest: CTA bilaterally
   S1 S2 reg
   Abd: soft NTND
   Assessment:
   1)       Gastric Variceal bleed
   2)       S/P TIPS
   Plan: Transfer to floor
   Time Spent: 20 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2148-11-13**] 05:39 PM ------